US07022851B2
4-{[6-N-(Benzyloxycarbonyl)-adenin-9-yl]acetyl}-(2-nitro-benzenesulfonyl)-piperazin-2-one
The title compound (731 mg, 61%) was synthesized by reaction of 1-(2-nitro-benzenesulfonyl)-piperazin-2-one HCl salt (644 mg, 2.0 mmol) with [6-N-(benzyloxycarbonyl)-adenin-9-yl]-acetic acid (655 mg, 2.0 mmol) as per the procedure of example 77. 1H NMR (DMSO-d6) δ 10.69 (s, 1H), 9.00 (m, 1H), 8.71 (m, 1H), 8.63˜8.58 (m, 2H), 8.31 (s, 0.6H), 8.29 (s, 0.4H), 7.47˜7.33 (m, 5H), 5.39 (s, 1.2H), 5.29 (s, 0.8H), 5.21 (s, 2H), 4.57 (s, 0.8H), 4.29 (s, 1.2H), 4.15˜4.09 (m, 2.4H), 3.93˜3.86 (m, 1.6H).

reactant | 1-(2-nitro-benzenesulfonyl)-piperazin-2-one HCl salt | 2.0 mmol, 644 mg | Cl.[N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)N1C(CNCC1)=O
reactant | [6-N-(benzyloxycarbonyl)-adenin-9-yl]-acetic acid | 2.0 mmol, 655 mg | C(C1=CC=CC=C1)OC(=O)NC1=C2N=CN(C2=NC=N1)CC(=O)O | C15H13N5O4
product | 4-{[6-N-(Benzyloxycarbonyl)-adenin-9-yl]acetyl}-(2-nitro-benzenesulfonyl)-piperazin-2-one | 731 mg, 61% | C(C1=CC=CC=C1)OC(=O)NC1=C2N=CN(C2=NC=N1)CC(=O)N1CC(N(CC1)S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])=O | C25H22N8O8S
